US06713471B1
To a solution of 1-bromo-3-chloropropane (1.98 g, 12.6 mmol) and indoline (500 mg, 4.20 mmol) in 1,4-dioxane (6.0 mL) was added Et3N (2.12 g, 21.0 mmol) at 20° C. The reaction mixture was then stirred for 15 h at 70° C. The reaction mixture was cooled to 20° C. and quenched by addition of H2O. The product was extracted with Et2O. The organic solution was then washed with H2O and brine, dried over MgSO4, filtered and concentrated in vacuo. 1-(3-Chloro-1-propyl)indoline (373 mg, 45%) was isolated by flash chromatography on a silica gel column by elution with EtOAc/Hexanes a pale yellow oil. 1H NMR (CDCl3, 300 MHz) δ2.07 (qu, 2H, J=6.2 Hz), 2.97 (t, 2H, J=8.2 Hz), 3.24 (t, 2H, J=6.6 Hz), 3.35 (t, 2H, J=8.3 Hz), 3.68 (t, 2H, J=6.2 Hz), 6.50-6.56 (m, 1H), 6.66 (t, 1H, J=6.6 Hz), 7.04-7.10 (m, 2H) ppm.

reactant | 1-bromo-3-chloropropane | 12.6 mmol, 1.98 g | BrCCCCl | C3H6BrCl
reactant | indoline | 4.20 mmol, 500 mg | N1CCC2=CC=CC=C12 | C8H9N
reactant | Et3N | 21.0 mmol, 2.12 g | CCN(CC)CC | C6H15N
solvent | 1,4-dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
product | 1-(3-Chloro-1-propyl)indoline | 373 mg, 45% | ClCCCN1CCC2=CC=CC=C12 | C11H14ClN
